US06919338B2
methyl-(2-tritylamino-1,3-thiazole-5-yl)acetate
Methyl-(2-amino-1,3-thiazole-5-yl)acetate (1 g, 5.8 mmol) in CH2Cl2 (15 ml) was reacted with triphenylmethyl chloride (1.73 g, 6.2 mmol) and triethylamine (0.89 ml, 6.4 mmol) at 0° C. for 1.5 hour. Water was added to the mixture which was extracted with ethyl acetate, dried, purified by silica gel chromatography to give title compound (2.21 g, 91%).

reactant | Methyl-(2-amino-1,3-thiazole-5-yl)acetate | 5.8 mmol, 1 g | COC(CC1=CN=C(S1)N)=O | C6H8N2O2S
reactant | triphenylmethyl chloride | 6.2 mmol, 1.73 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 6.4 mmol, 0.89 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | methyl-(2-tritylamino-1,3-thiazole-5-yl)acetate | 2.21 g, 91% | COC(CC1=CN=C(S1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H22N2O2S
